US07897609B2
Under a nitrogen atmosphere, a suspension of 1-[4-amino-7-bromo-2-(ethoxymethyl)-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl]-2-methylpropan-2-ol (1.5 g, 3.8 mmol), 3-(morpholine-4-carbonyl)phenylboronic acid (1.07 g, 4.57 mmol), potassium carbonate (1.74 g, 12.6 mmol), dichlorobis(triphenylphosphine)palladium(II)(0.027 g, 0.038 mmol), DME (13 mL), and water (7 mL) was stirred in a pressure vessel. The vessel was sealed, and the suspension was heated at 110° C. for 22 hours and allowed to cool to room temperature. The DME was removed under reduced pressure, and the resulting mixture was extracted with dichloromethane (3×25 mL) and ethyl acetate (25 mL). The combined organic extracts were dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The resulting tan solid (2.11 g) was dissolved in dichloromethane (15 mL), purified by automated flash chromatography (40+M silica cartridge, eluting with 5% to 20% methanol in ethyl acetate). The resulting foamy solid was concentrated twice from methyl acetate, and the resulting solid was triturated with acetonitrile, isolated by filtration, washed with acetonitrile, and dried in a vacuum oven to provide 601 mg of 1-{4-amino-2-(ethoxymethyl)-7-[3-(morpholin-4-ylcarbonyl)phenyl]-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl}-2-methylpropan-2-ol as a white solid, mp 149-152° C.

reactant | 1-[4-amino-7-bromo-2-(ethoxymethyl)-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl]-2-methylpropan-2-ol | 3.8 mmol, 1.5 g | NC1=NC=2C=C(C=NC2C2=C1N=C(N2CC(C)(O)C)COCC)Br | C16H20BrN5O2
reactant | 3-(morpholine-4-carbonyl)phenylboronic acid | 4.57 mmol, 1.07 g | N1(CCOCC1)C(=O)C=1C=C(C=CC1)B(O)O | C11H14BNO4
reactant | potassium carbonate | 12.6 mmol, 1.74 g | C([O-])([O-])=O.[K+].[K+]
reactant | DME | 13 mL | COCCOC | C4H10O2
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.038 mmol, 0.027 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 7 mL | O | H2O
product | 1-{4-amino-2-(ethoxymethyl)-7-[3-(morpholin-4-ylcarbonyl)phenyl]-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl}-2-methylpropan-2-ol | 601 mg | NC1=NC=2C=C(C=NC2C2=C1N=C(N2CC(C)(O)C)COCC)C2=CC(=CC=C2)C(=O)N2CCOCC2 | C27H32N6O4
